US08487108B2
To a solution of (S)-tert-butyl 1-cyclohexyl-3-oxopentan-2-ylcarbamate in THF/MeOH (604/15 mL) at 0° C. was carefully added NaBH4 (630 mg, 16.66 mmol). After 20 min, sat. aq. NH4Cl was added to quench the reaction, and extracted with EtOAc, washed with brine, dried over Na2SO4, filtered, and concentrated to give (S)-tert-butyl 1-cyclohexyl-3-hydroxypentan-2-ylcarbamate (4.77 g, 96%, in a ratio of 40:60) as a white solid. MS ESI +ve m/z 286 (M+H).

reactant | (S)-tert-butyl 1-cyclohexyl-3-oxopentan-2-ylcarbamate | C1(CCCCC1)C[C@@H](C(CC)=O)NC(OC(C)(C)C)=O | C16H29NO3
reactant | NaBH4 | 16.66 mmol, 630 mg | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF MeOH | 15 mL | C1CCOC1.CO
product | (S)-tert-butyl 1-cyclohexyl-3-hydroxypentan-2-ylcarbamate | C1(CCCCC1)C[C@@H](C(CC)O)NC(OC(C)(C)C)=O | C16H31NO3
